US04370340
To a mixture of ethanol (10 liters) and water (1 liter) were added ammonium chloride (25 g) and iron metal (300 g). To the mixture was added ethyl 2-oxo-5-chloro-6-nitro-3-benzothiazolineacetate (434.6 g) under mild reflux. After refluxing with stirring for 4 hours, the resultant mixture was filtered under warm condition. The filter cake was washed with ethanol. The combined filtrate and washings were concentrated under reduced pressure and cooled to ambient temperature to give crystals, which were separated by filtration to give crystalline ethyl 2-oxo-5-chloro-6-amino-3-benzothiazolineacetate (347.8 g).

reactant | ethanol | 10 liters | C(C)O | C2H6O
reactant | ammonium chloride | 25 g | [Cl-].[NH4+]
reactant | ethyl 2-oxo-5-chloro-6-nitro-3-benzothiazolineacetate | 434.6 g | O=C1SC2=C(N1CC(=O)OCC)C=C(C(=C2)[N+](=O)[O-])Cl | C11H9ClN2O5S
catalyst | iron | 300 g | [Fe] | Fe
solvent | water | 1 liter | O | H2O
product | ethyl 2-oxo-5-chloro-6-amino-3-benzothiazolineacetate | 347.8 g | O=C1SC2=C(N1CC(=O)OCC)C=C(C(=C2)N)Cl | C11H11ClN2O3S
